US07718600B2
Boc-Ala-Val-OMe (53) (PAA 2-7).
EDC (1.521 g, 7.93 mmol) was added to Boc-Ala (1.500 g, 7.93 mmol) in 25 mL chloroform at 0° C. and the mixture was allowed to stir 30 minutes. Valine methyl ester (1.329 g, 7.93 mmol), triethylamine (1.11 mL, 7.93 mmol) and 25 mL chloroform were combined in a separate 50-mL flask and stirred. This mixture was transferred to the solution of activated Boc-alanine and stirred at 0° C. for 3 h. The ice bath was removed and the reaction mixture stirred an additional 27 h. Three drops of acetic acid were added and the stirring continued for 15 minutes. The mixture was concentrates in vacuo and then redissolved in EtOAc (50 mL). The organic portion was washed with 10% NaHCO3 (2×25 mL), 1N HCl (2×25 mL), water (25 mL), dried over sodium sulfate, and concentrated in vacuo to 1.848 g (81%) of product. 1H NMR (CDCl3, 300 MHz) δ 6.68 (br d, J=5.4 Hz, 1H), 4.99 (br s, 1H), 4.53 (dd, J=4.8, 8.7 Hz, 1H), 4.19 (br t, J=7.5 Hz, 1H), 3.74 (s, 3H), 2.18 (septet, J=6.9 Hz, 1H), 1.45 (s, 9H), 0.93 (d, J=6.9 Hz, 3H), 0.90 (d, J=6.9 Hz, 3H).

reactant | EDC | 7.93 mmol, 1.521 g
reactant | Boc-Ala | 7.93 mmol, 1.500 g | N([C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | Valine methyl ester | 7.93 mmol, 1.329 g | COC([C@@H](N)C(C)C)=O | C6H13NO2
reactant | triethylamine | 7.93 mmol, 1.11 mL | C(C)N(CC)CC | C6H15N
reactant | Boc-alanine | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)O | C8H15NO4
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | Boc-Ala-Val-OMe | N([C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)OC)C(=O)OC(C)(C)C | C14H26N2O5
